US07329668B2
D. 1-Methyl-4-cyclopropylamino-7-(4′-fluoro-3′-carboxyethylphenyl)-pyrazolo[5,1-b]purine
A mixture of 1-methyl-4-cyclopropylamino-7-(4′-fluoro-3′-methoxycarbonylethylphenyl)-pyrazolo[5,1-b]purine (57.4 mg, 0.141 mmol) in THF/MeOH/1.0 N NaOH (3.5 mL, 4:2:1) was stirred at room temperature. After 3 days, neutralization with 1.0 N HCl precipitated a white solid. Filtration followed by wash with H2O and acetone furnished the title compound (26.9 mg, 49%) as a white solid. 1H NMR (d-MeOD, 400 MHz): 7.88 (d, J=7.34 Hz, 1H), 7.83 (s, 1H), 7.86-7.80 (m, 1H), 7.12 (t, J=9.78 Hz, 1H), 6.58 (s, 1H), 4.32 (s, 3H), 3.01 (t, J=7.83 Hz, 2H), 2.90 (m, 1H), 2.65 (t, J=7.82 Hz, 2H), 0.93 (m, 2H), 0.70 (m, 2H).

reactant | 1-methyl-4-cyclopropylamino-7-(4′-fluoro-3′-methoxycarbonylethylphenyl)-pyrazolo[5,1-b]purine | 0.141 mmol, 57.4 mg | CN1C=2N3C(N=C(C2N=C1)NC1CC1)=CC(=N3)C3=CC(=C(C=C3)F)CCC(=O)OC | C21H21FN6O2
solvent | THF MeOH | 1.0 N, 3.5 mL | C1CCOC1.CO
product | 1-Methyl-4-cyclopropylamino-7-(4′-fluoro-3′-carboxyethylphenyl)-pyrazolo[5,1-b]purine | 26.9 mg, 49% | CN1C=2N3C(N=C(C2N=C1)NC1CC1)=CC(=N3)C3=CC(=C(C=C3)F)CCC(=O)O | C20H19FN6O2
